US07829584B2
3-p-tolyl-acryloyl Azide
Triethylamine (8.5 mL, 60 mmol) was added slowly into the mixture of 3-p-tolyl-acrylic acid (8.3 g, 50 mmol) in 40 mL of acetonitrile followed by drop-wise addition of ethyl chloroformate (5.3 mL, 55 mmol) at 0° C. The solution was stirred for 2 h at this temperature. Sodium azide (6.5 g, 100 mmol) in 50 mL of water was added slowly to the above solution at 0° C. and the mixture was kept stirring for 1 h. Cold water was added and the precipitate was filtered and washed with cold water. The solid product (7.66 g, 82% yield) was obtained after being dried under vacuum. 1H-NMR (300 MHz, CDCl3) δ 7.72 (d, 1H), 7.44 (d, 2H), 7.21 (d, 2H), 6.38 (d, 1H), 2.39 (s, 3H).

reactant | Triethylamine | 60 mmol, 8.5 mL | C(C)N(CC)CC | C6H15N
reactant | 3-p-tolyl-acrylic acid | 50 mmol, 8.3 g | C1(=CC=C(C=C1)C=CC(=O)O)C | C10H10O2
reactant | ethyl chloroformate | 55 mmol, 5.3 mL | ClC(=O)OCC | C3H5ClO2
reactant | Sodium azide | 100 mmol, 6.5 g | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 3-p-tolyl-acryloyl Azide | 7.66 g, 82% yield | C1(=CC=C(C=C1)C=CC(=O)N=[N+]=[N-])C | C10H9N3O
